US09353075B2
Step 3. Preparation of (2S,3R)-3-hydroxy-2-[(1-methylcyclohexoxy)carbonylamino]-butanoic acid
In a round bottomed flask equipped with a magnetic stirrer, (1-methylcyclohexyl)-N-aminocarbamate (0.497 g, 2.89 mmol), H2O (4 mL) and CH3COOH (0.33 mL, 5.78 mmol) were added sequentially. The mixture was cooled to 0° C. and NaNO2 (0.239 g, 3.47 mmol) dissolved in H2O (1 mL) was added dropwise. The cloudy mixture was stirred for 40 min at rt, then dioxane (10 mL) was added followed by a D-threonine salt solution [prepared from D-threonine (0.516 g, 4.33 mmol) dissolved in H2O (4 mL) and Na2CO3 (1.25 g, 11.56 mmol)]. The mixture was heated overnight at 45° C., then cooled to rt. AcOEt (50 mL) and H2O (50 mL) were added and, while maintaining a vigorous stirring, the pH was adjusted to 2 with 2M HCl solution. The two phases were separated and the aqueous phase washed again with of AcOEt (15 mL) for 10 min. The combined organic portions were dried over Na2SO4 and concentrated to give a light yellow oil (0.503 g, 67%) which was used in the next step without further purification. MS (ESI) m/z: 282.3 [M−Na]+; (ESI) m/z: 258.1 [M−H]−. 1H NMR (DMSO-d6): δ 1.09 (d, J=6.3 Hz, 3H), 1.10-1.65 (m, 8H), 1.40 (s, 3H), 2.04 (m, 2H), 3.89 (dd, J=9.3, 3.2 Hz, 1H), 4.06 (m, 1H), 6.31 (d, J=9.3, 1H), 12.08 (bs, 1H).

reactant | (1-methylcyclohexyl)-N-aminocarbamate | 2.89 mmol, 0.497 g | CC1(CCCCC1)OC(NN)=O | C8H16N2O2
reactant | CH3COOH | 5.78 mmol, 0.33 mL | CC(=O)O | C2H4O2
reactant | NaNO2 | 3.47 mmol, 0.239 g | N(=O)[O-].[Na+]
reactant | D-threonine | N[C@H]([C@@H](O)C)C(=O)O | C4H9NO3
reactant | D-threonine | 4.33 mmol, 0.516 g | N[C@H]([C@@H](O)C)C(=O)O | C4H9NO3
reactant | Na2CO3 | 11.56 mmol, 1.25 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | HCl | 2M | Cl | ClH
solvent | H2O | 1 mL | O | H2O
solvent | H2O | 4 mL | O | H2O
solvent | H2O | 50 mL | O | H2O
solvent | H2O | 4 mL | O | H2O
solvent | AcOEt | 50 mL | CCOC(=O)C | C4H8O2
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | (2S,3R)-3-hydroxy-2-[(1-methylcyclohexoxy)carbonylamino]-butanoic acid | 0.503 g, 67% | O[C@@H]([C@@H](C(=O)O)NC(=O)OC1(CCCCC1)C)C | C12H21NO5
